US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 24 mg, 0.049 mmol), ethanamine-HCl (6.01 mg, 0.074 mmol), 4-methylmorpholine (19.88 mg, 0.197 mmol), and HATU (24.29 mg, 0.064 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 15 min, 20 mL/min, 220 nM, product retention=15.7 min) to provide (R/S)-N-(2-(ethylamino)-2-oxoethyl)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (5 mg, 7.62 μmol, 15.52% yield): LCMS=516.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.36 Hz), 7.59-7.84 (7 H, m), 5.20 (1 H, s), 3.79-3.99 (2 H, m), 3.15-3.27 (2 H, m), 1.11 (3 H, t, J=7.26 Hz); HPLC peak RT=8.6 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.049 mmol, 24 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | ethanamine-HCl | 0.074 mmol, 6.01 mg | Cl.C(C)N
reactant | 4-methylmorpholine | 0.197 mmol, 19.88 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.064 mmol, 24.29 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(2-(ethylamino)-2-oxoethyl)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 7.62 μmol, 5 mg, 15.52% yield | C(C)NC(CNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1)O)=O)=O | C24H20F3N5O5
